US03962321
Cis-2-nonenol (2.9 g, 0.03 mole), acetic anhydride (3.1 g, 0.045 mole) and pyridine (15 ml) is heated at reflux for 3 hours. The solution is cooled and diluted with water. The organic layer is separated and washed successively with 3% sulfuric acid, and water. The solution is dried over sodium sulfate and distilled under vacuum to yield cis-2-nonenyl acetate, b.p. 58° - 62°C/0.1 mm.

reactant | Cis-2-nonenol | 0.03 mole, 2.9 g | C(\C=C/CCCCCC)O | C9H18O
reactant | acetic anhydride | 0.045 mole, 3.1 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
solvent | water | O | H2O
product | cis-2-nonenyl acetate | C(C)(=O)OC\C=C/CCCCCC | C11H20O2
